US07230007B2
1.6 cm3 of a 10N sodium hydroxide solution were added to methyl 1-(3-(dimethylamino)phenyl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylate in 15 cm3 of tetrahydrofuran. After stirring at reflux of the solvent for 48 h, the reaction mixture was acidified with 2 cm3 of 10N hydrochloric acid and then concentrated to dryness under reduced pressure (2.7 kPa) to give 1-(3-(dimethylamino)phenyl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid, characterized by LC/MS (m/z 282 [MH]+), which was used directly in the following stage.

reactant | sodium hydroxide | 10N | [OH-].[Na+]
reactant | methyl 1-(3-(dimethylamino)phenyl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylate | CN(C=1C=C(C=CC1)N1C=C(C=2C1=NC=CC2)C(=O)OC)C | C17H17N3O2
reactant | hydrochloric acid | 10N, 2 cm3 | Cl | ClH
solvent | tetrahydrofuran | 15 cm3 | O1CCCC1 | C4H8O
product | 1-(3-(dimethylamino)phenyl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid | CN(C=1C=C(C=CC1)N1C=C(C=2C1=NC=CC2)C(=O)O)C | C16H15N3O2
